Pro1F6
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:06:38

*Schematic Netlist:
J1 NetJ1_4 NetJ1_2 0 NJFET
VDS NetJ1_4 0 0
VGS NetJ1_2 0 0

.SAVE 0 NetJ1_2 NetJ1_4 VDS#branch VGS#branch @VDS[z] @VGS[z] @J1[id] @J1[ig]
.SAVE @J1[is] @J1[p] @VDS[p] @VGS[p]

*PLOT DC -1 1 A=NetJ1_2

.OPTIONS TEMP=150
*Selected Circuit Analyses:
.DC VDS 0 3 0.01 VGS -4 0 0.5

*Models and Subcircuit:
.MODEL NJFET NJF ( ALPHA=1 BETATCE=1 ISR=1E-9 M=0.75 N=1 NR=2 VK=0.1 VTOTC=0.1
+ XTI=3 )

.END
